US06610701B2
To a solution of 1.15 g (3.16 mmol) of 2-[2-({[(benzyloxy)carbonyl]amino}methyl)phenyl]ethyl methanesulfonate in 8.0 mL of DMF was added 0.411 g (6.33 mmol) of sodium azide. After stirring at room temperature overnight, an additional 0.205 g (3.15 mmol) of sodium azide was added and the reaction warmed to 40° C. for 4 h. The reaction was cooled to room temperature, treated with saturated sodium carbonate (aq) and extracted with ethyl acetate (3×). The organic extracts were combined, washed with water (1×) and brine (1×), dried over sodium sulfate and concentrated to dryness in vacuo to give 1.2 g of a crude oil. Flash chromatography on silica gel (20% ethyl acetate in hexane) gave benzyl 2-(2-azidoethyl)benzylcarbamate as a colorless oil: 1H NMR (CDCl3, 400 MHz): δ7.39-7.20 (m, 9H), 5.14 (s, 2H), 5.05 (br s, 1H), 4.42 (d, 2H, J=5.6 Hz), 3.56-3.49 (t, 2H, J=7.0 Hz), 2.91 (t, 2H, J=7.0 Hz); MS (Electrospray): M+Na=333.1; TLC Rf=0.32 (20% ethyl acetate in hexane).

reactant | 2-[2-({[(benzyloxy)carbonyl]amino}methyl)phenyl]ethyl methanesulfonate | 3.16 mmol, 1.15 g | CS(=O)(=O)OCCC1=C(C=CC=C1)CNC(=O)OCC1=CC=CC=C1 | C18H21NO5S
reactant | sodium azide | 6.33 mmol, 0.411 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium azide | 3.15 mmol, 0.205 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | benzyl 2-(2-azidoethyl)benzylcarbamate | N(=[N+]=[N-])CCC1=C(CNC(OCC2=CC=CC=C2)=O)C=CC=C1 | C17H18N4O2
